data/mechanism_extracts/ChemRxiv/10.26434_chemrxiv-2023-dzw3d.json
{"doi": "10.26434_chemrxiv-2023-dzw3d", "journal": "ChemRxiv", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed enantioselective C–H functionalization / spiroannulation of 8-aminoquinoline benzamides with maleimides, with a chiral phosphoric acid (CPA) co-catalyst controlling enantioselectivity", "mechanism_family": ["electrocatalysis_inner_sphere", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "8-aminoquinoline benzamide substrate 1 (free amide)", "smiles": "O=C(Nc1cccc2cccnc12)c1ccccc1", "role": "reactive"}, {"name": "Co(II)–pivalate–amide complex (benzamide bound to Co with pivalate ligand)", "smiles": null, "role": "transient"}, {"name": "Bis(amidate) Co(II) complex (two benzamide ligands on Co)", "smiles": null, "role": "resting_state"}, {"name": "Cyclometalated Co(III)–aryl/maleimide insertion intermediate (containing N-benzylmaleimide)", "smiles": null, "role": "reactive"}, {"name": "Spirocyclic succinimide–isoindolinone product 3 bound to quinoline (released product)", "smiles": null, "role": "reactive"}, {"name": "Co(II)–amide–pivalate–CPA (binaphthyl phosphate) ternary complex", "smiles": null, "role": "transient"}, {"name": "Co–bis(amidate)–CPA complex", "smiles": null, "role": "resting_state"}, {"name": "Co(IV)–maleimide insertion intermediate ligated by CPA phosphate (m/z 839.1210)", "smiles": null, "role": "transient"}], "electron_flow": "Co(II) coordinates the 8-aminoquinoline amide and undergoes pivalate-assisted concerted metalation–deprotonation (CMD) of the ortho C–H bond; oxidation to Co(III)/Co(IV) and migratory insertion into the maleimide C=C, followed by C–N bond-forming reductive cyclization, delivers the spirocyclic product. The chiral phosphoric acid binds to the Co center and enforces enantioselectivity in the C–C/C–N forming step.", "rate_determining_step": "Product-forming step after C–H metalation (likely migratory insertion / C–N reductive elimination); C–H cleavage is not rate-limiting since KIE ≈ 1.0–1.2", "probe_reagents": [{"name": "[D]5-1 (pentadeuterated benzamide substrate) – parallel KIE with CPA1", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.2 from parallel reactions with CPA1, indicating C–H cleavage is not rate-determining"}, {"name": "[D]5-1 – parallel KIE without CPA1", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.0 without CPA1, confirming C–H activation is not rate-limiting in either regime"}, {"name": "HRMS aliquot analysis during catalysis", "smiles": null, "purpose": "intermediate_trap", "observation": "Detected masses consistent with Co(II)–amide–pivalate (m/z 408.0873), bis(amidate)Co (554.1142), Co(III)–insertion/cyclometalated species (739.1608), CPA-bound Co complexes (695.1004, 756.1447, 902.1693) and a Co(IV) maleimide-insertion species (839.1210)"}, {"name": "DFT computation of product racemization barrier", "smiles": null, "purpose": "other", "observation": "ΔG‡ = 48.3 kcal/mol for 36-(S) → 36-(R) rotation, t1/2 ≈ 3.2×10^18 yr, confirming configurational stability of the atropisomeric product"}], "evidence_types_used": ["KIE", "H/D_labeling", "DFT", "intermediate_trap_other", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "HRMS detects multiple plausible on-cycle species, including CPA-ligated Co complexes, supporting direct coordination of the chiral phosphate to cobalt rather than a purely outer-sphere Brønsted-acid role. Near-unity KIE (1.0 without CPA, 1.2 with CPA) rules out turnover-limiting C–H metalation; CPA likely modulates a later enantiodetermining migratory insertion or C–N bond-forming step. Product atropisomerism is configurationally locked (DFT)."}
